US04534979
In analogy to the procedure given in Example 1: Triethyl 2-phosphonobutyrate was reacted with retinal to give ethyl 5,9-dimethyl-2-ethyl-11-(2,6,6-trimethyl-1cyclohexen-1-yl)-2,4,6,8,10-undecapentaenoate, which was converted by the procedure of Example 2 to 5,9-dimethyl-2-ethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenoic acid, m.p.=164°-165° C.

reactant | Triethyl 2-phosphonobutyrate | CCC(C(=O)OCC)P(=O)(OCC)OCC | C10H21O5P
reactant | retinal | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=O)/C)/C | C20H28O
product | ethyl 5,9-dimethyl-2-ethyl-11-(2,6,6-trimethyl-1cyclohexen-1-yl)-2,4,6,8,10-undecapentaenoate | CC(=CC=C(C(=O)OCC)CC)C=CC=C(C=CC1=C(CCCC1(C)C)C)C | C26H38O2
